US06960575B2
Methyl 2-(2,2-dimethoxybutylthio)acetate (Reference compound No. 37-1)
Methyl orthoformate (10.8 ml) and p-toluenesulfonic acid monohydrate. (catalytic amount) are added to a solution of methyl 2-(2-oxobutylthio)acetate (5.80 g, Reference compound No. 36-1) in methanol (60 ml), and the mixture is refluxed for two hours. The reaction mixture is cooled to 0° C., sodium methoxide (1.98 g) is added to the mixture, and the whole is stirred for 20 minutes. The reaction mixture is concentrated under reduced pressure, ethyl acetate is added to the resulting residue, and the whole is washed with saturated brine. The organic layer is dried over anhydrous magnesium sulfate, and the solvent is distilled away under reduced pressure to give the titled reference compound (6.85 g).

reactant | Methyl orthoformate | 10.8 ml | C(OC)([O-])[O-]
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | methyl 2-(2-oxobutylthio)acetate | O=C(CSCC(=O)OC)CC | C7H12O3S
reactant | sodium methoxide | 1.98 g | C[O-].[Na+]
solvent | methanol | 60 ml | CO | CH4O
product | Methyl 2-(2,2-dimethoxybutylthio)acetate | 6.85 g | COC(CSCC(=O)OC)(CC)OC | C9H18O4S
